US04418218
Reduction of acetophenone
The aqueous layer and the 10% hydrochloric acid washings were joined and the joined solution was mixed with a 10% sodium hydroxide solution (30 ml) to adjust the pH to about 11 and extracted with ethyl acetate (50 ml×3). The extract was washed with a saturated saline solution (50 ml×3), dried and then ethyl acetate was distilled off to obtain a mixture of N-methylephedrine and N-ethylaniline. Yield: 2.4 g (100%). Said two substances can be recovered, separately by distilling the mixture under reduced pressure.

reactant | hydrochloric acid | Cl | ClH
reactant | N-methylephedrine | CC(C(C1=CC=CC=C1)O)N(C)C | C11H17NO
reactant | N-ethylaniline | C(C)NC1=CC=CC=C1 | C8H11N
solvent | sodium hydroxide | 30 ml | [OH-].[Na+]
product | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
